US04067720
5 ml of methyl isocyanate were added to a solution of 12.1 g of 3-hydroxy-5-(p-chlorobenzyloxy)-1,2,4-thiadiazole in 150 ml tetrahydrofuran and the mixture was stirred for 2 hours and 20° C and then concentrated to dryness. The residue was crystallized from ethyl acetate to obtain 7.3g of 2-(N-methylcarbamoyl)-5-(p-chlorobenzyloxy)-1,2,4-thiadiazole-3-one melting at 145° C.

reactant | methyl isocyanate | 5 ml | CN=C=O | C2H3NO
reactant | 3-hydroxy-5-(p-chlorobenzyloxy)-1,2,4-thiadiazole | 12.1 g | OC1=NSC(=N1)OCC1=CC=C(C=C1)Cl | C9H7ClN2O2S
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(N-methylcarbamoyl)-5-(p-chlorobenzyloxy)-1,2,4-thiadiazole-3-one | 7.3g | CNC(=O)N1SC(=NC1=O)OCC1=CC=C(C=C1)Cl | C11H10ClN3O3S
